US08071773B2
b) 8-Aminomethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-ol
3 mmol of 8-azidomethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-ol are taken up in 10 ml of methanol and the solution is admixed with 0.30 mmol of 10% Pd/C. The reaction mixture is hydrogenated with a hydrogen pressure of 1 bar at 22° C. for 1-10 hours. The catalyst is filtered off over Hyflo and the filtrate is evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60 F) on the basis of the Rf value.

reactant | 8-azidomethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-ol | 3 mmol | N(=[N+]=[N-])CC1(C=2N(CCC1)C=NC2)O | C8H11N5O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd/C | 0.30 mmol | [Pd] | Pd
product | 8-Aminomethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-ol | NCC1(C=2N(CCC1)C=NC2)O | C8H13N3O
